US07799818B2
Ethyl 4-((1S)-1-{3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-oxo-4,5-dihydro-1H-pyrazol-1-yl}ethyl)benzoate (1.42 g, 3.36 mmol) and triethylamine (2.4 ml, 17.3 mmol) were dissolved in THF (25 ml) and cooled to −78° C. Triflic anhydride (1.1 ml, 6.6 mmol) was added. The cooling bath was removed and reaction mixture stirred for 1 h. Ethyl acetate (100 ml) was added, and the organic phase washed with water, 1N HCl 2×, and brine 2×. Flash column chromatography (SiO2, 0-5% ethyl acetate in hexanes) yielded ethyl 4-[(1S)-1-(3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazol-1-yl)ethyl]benzoate as a colorless oil. NMR (500 MHz, CDCl3) δ: 1.38 (t, J=7.1 Hz, 3H); 2.01 (d, J=7.0 Hz, 3H); 4.36 (q, J=7.1 Hz, 2H); 5.59 (q, J=7.0 Hz, 1); 6.64 (d, JF-H=3.5 Hz, 1H); 7.25 (t, J=9.7 Hz, 1H); 7.37 (d, J=8.3 Hz, 2H); 7.59 (m, 1H); 8.03 (d, J=8.3 Hz, 2H); 8.38 (dd, J=2.7 Hz, 6.7 Hz, 1H). MS C22H17F7N2O5S Cald: 554.07; Obsd (M+1): 555.16.

reactant | Ethyl 4-((1S)-1-{3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-oxo-4,5-dihydro-1H-pyrazol-1-yl}ethyl)benzoate | 3.36 mmol, 1.42 g | FC1=C(C=C(C=C1)C(F)(F)F)C1=NN(C(C1)=O)[C@@H](C)C1=CC=C(C(=O)OCC)C=C1 | C21H18F4N2O3
reactant | triethylamine | 17.3 mmol, 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 6.6 mmol, 1.1 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | ethyl 4-[(1S)-1-(3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazol-1-yl)ethyl]benzoate | FC1=C(C=C(C=C1)C(F)(F)F)C1=NN(C(=C1)OS(=O)(=O)C(F)(F)F)[C@@H](C)C1=CC=C(C(=O)OCC)C=C1 | C22H17F7N2O5S
